US07645789B2
To a solution of 1-(4-methoxy-3-nitro-phenyl)-cyclopropane-carboxylic acid methyl ester (10.0 g, 39.8 mmol) in CH2Cl2 (100 mL) was added BBr3 (12.0 g, 47.8 mmol) at −70° C. The mixture was stirred at −70° C. for 1 hour, then allowed to warm to −30° C. and stirred at this temperature for 3 hours. Water (50 mL) was added dropwise at −20° C., and the resulting mixture was allowed to warm room temperature before it was extracted with EtOAc (200 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate 15:1) to afford 1-(4-hydroxy-3-nitro-phenyl)-cyclopropanecarboxylic acid methyl ester (8.3 g, 78%). 1H NMR (CDCl3, 400 MHz) δ 10.5 (s, 1H), 8.05 (d, J=2.4 Hz, 1H), 7.59 (dd, J=2.0, 8.8 Hz, 1H), 7.11 (d, J=8.4 Hz, 1H), 3.64 (s, 3H), 1.68-1.64 (m, 2H), 1.20-1.15 (m, 2H).

reactant | 1-(4-methoxy-3-nitro-phenyl)-cyclopropane-carboxylic acid methyl ester | 39.8 mmol, 10.0 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C12H13NO5
reactant | BBr3 | 47.8 mmol, 12.0 g | B(Br)(Br)Br | BBr3
reactant | Water | 50 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxy-3-nitro-phenyl)-cyclopropanecarboxylic acid methyl ester | 8.3 g, 78% | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C11H11NO5
